US05563147
6-Methyl indole
6-hydroxymethyl indole (6.135 g, 41.69 mmol) was dissolved in ethanol (70 ml). 10% Palladium on charcoal (0.610 g) was suspended in acetic acid (70 ml) and added to the ethanol (70 ml) solution. The mixture was placed on the high pressure hydrogenator at 60 psi. After 20 hours, the mixture was filtered through Celite and the resulting solution concentrated in vacuo. The mixture was purified by flash chromatography using chloroform as solvent to yield a colourless oil.

reactant | 6-hydroxymethyl indole | 41.69 mmol, 6.135 g | OCC1=CC=C2C=CNC2=C1 | C9H9NO
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | 0.610 g | [Pd] | Pd
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 6-Methyl indole | CC1=CC=C2C=CNC2=C1 | C9H9N
